US08182718B2
Hc=1-(3-Phenylpropyl)-1H-benzimidazole
To a flask were added 5 g benzimidazole and 75 ml tetrahydrofuran under nitrogen and the solution was cooled to 10 C with stirring. 2.2 g Sodium hydride were added in small portions and the reaction was stirred for 10 minutes. 1-Bromo-3-phenylpropane was added and the reaction mixture was heated to 40 C for 5 hrs. After cooling to 5 C, the reaction was quenched with slow addition of 100 ml water. After the tetrahydrofuran was removed of by rotovap, the mixture was extracted with 100 ml ethyl acetate and washed with 25 ml water and the solvent was removed on the rotovap. The product was purified by column chromatography using 40% ethyl acetate in hexane resulting in a light yellow oil which crystallized in the freezer.

reactant | benzimidazole | 5 g | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | Sodium hydride | 2.2 g | [H-].[Na+]
reactant | 1-Bromo-3-phenylpropane | BrCCCC1=CC=CC=C1 | C9H11Br
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 1-(3-Phenylpropyl)-1H-benzimidazole | C1(=CC=CC=C1)CCCN1C=NC2=C1C=CC=C2 | C16H16N2
